US08217134B2
Chloro-acetic acid 4-(2-chloro-acetoxy)-phenyl ester
A mixture of hydroquinone (50 grams, 454.09 mmol) and chloroacetyl chloride (150 mL) was refluxed for 48 hours. Excess chloroacetyl chloride was distilled off, and the residue taken into ice water, filtered, dried, and recrystallised from ethyl acetate:hexane (1:6) to get pure product (55 grams, 46%) as a white fluffy powder. M.p: 127-128° C. 1H NMR (CDCl3) δ 4.20 (s, 25H, CH2), 7.24 (s, 2H, Ar).

reactant | hydroquinone | 454.09 mmol, 50 grams | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | chloroacetyl chloride | 150 mL | ClCC(=O)Cl | C2H2Cl2O
product | Chloro-acetic acid 4-(2-chloro-acetoxy)-phenyl ester | 55 grams, 46% | ClCC(=O)OC1=CC=C(C=C1)OC(CCl)=O | C10H8Cl2O4
